US06603007B1
Synthesis of N,N′-Diphenyl-N,N′-di(3-methylphenyl)-1,4-phenylenediamine (VI)
A mixture of 31.2 g (0.12 mole) of N,N′-diphenyl-N,N′-p-phenylenediamine, 54.5 g (0.25 mole) of m-iodotoluene, 32.6 g (0.34 mole) of t-butoxy sodium, 59.0 mg (0.6 mmole) of copper (I) chloride, 185 mg (0.6 mmole) of 2-(5,6-diphenyl-2-pyridyl)pyridine (A-8) and 87.6 ml of α-pinene was reacted at 125 to 130° C. for 5 hours under a nitrogen gas stream. After completion of the reaction, 66 ml of toluene and 66 ml of water were added to separate the reaction mixture. Toluene was then concentrated under reduced pressure. The residue was crystallized by the addition of 39 ml of ethyl acetate and 253 ml of isopropanol, whereby 47.8 g (yield: 90.5%) of the target compound was obtained as pale yellow crude crystals. The compound was found to have a melting point of 170 to 171° C. and an HPLC content (column: YMC-A-002, UV detector: 310 nm, eluent having a flow rate of 1.1 ml/min) was 99.5%.

reactant | N,N′-diphenyl-N,N′-p-phenylenediamine | 0.12 mole, 31.2 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=CC=CC=C1 | C18H16N2
reactant | m-iodotoluene | 0.25 mole, 54.5 g | IC=1C=C(C=CC1)C | C7H7I
reactant | t-butoxy sodium | 0.34 mole, 32.6 g | C(C)(C)(C)O[Na]
reactant | α-pinene | 87.6 ml | CC1=CCC2CC1C2(C)C | C10H16
catalyst | copper (I) chloride | 0.6 mmole, 59.0 mg | [Cu]Cl
catalyst | 2-(5,6-diphenyl-2-pyridyl)pyridine | 0.6 mmole, 185 mg | C1(=CC=CC=C1)C=1C=CC(=NC1C1=CC=CC=C1)C1=NC=CC=C1 | C22H16N2
solvent | water | 66 ml | O | H2O
solvent | toluene | 66 ml | C1(=CC=CC=C1)C | C7H8
product | N,N′-Diphenyl-N,N′-di(3-methylphenyl)-1,4-phenylenediamine | 47.8 g, yield: 90.5% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)N(C1=CC(=CC=C1)C)C1=CC=CC=C1)C1=CC(=CC=C1)C | C32H28N2
